US04038258
Tetra-n-butylphosphonium Diphenylphosphinate
To a suspension of 43.6 grams of diphenylphosphinic acid in 300 milliliters of distilled water is added a solution of 8.0 grams of sodium hydroxide in 200 milliliters of water and the mixture stirred. The acid dissolves slowly. To the resulting solution is added a solution of 59 grams of tetra-n-butylphosphonium chloride in about 200 milliliters of distilled water. The reaction mixture is stirred for half an hour and is then extracted with two 250-milliliter portions of chloroform. The extract is dried over anhydrous Na2SO4 and the chloroform is then distilled. A light-brown viscous liquid remains. It is dried overnight at 80° C. On cooling, tetra-n-butylphosphonium diphenylphosphinate separates as white crystals. It is collected by filtration and is washed with anhydrous ether; the crystals melt at 83° to 84° C.

reactant | diphenylphosphinic acid | 43.6 grams | C1(=CC=CC=C1)P(O)(=O)C1=CC=CC=C1 | C12H11O2P
reactant | sodium hydroxide | 8.0 grams | [OH-].[Na+]
solvent | water | 300 milliliters | O | H2O
solvent | water | 200 milliliters | O | H2O
catalyst | tetra-n-butylphosphonium chloride | 59 grams | [Cl-].C(CCC)[P+](CCCC)(CCCC)CCCC
solvent | water | about 200 milliliters | O | H2O
product | Tetra-n-butylphosphonium Diphenylphosphinate | C1(=CC=CC=C1)P([O-])(=O)C1=CC=CC=C1.C(CCC)[P+](CCCC)(CCCC)CCCC | InChI=1S/C16H36P.C12H11O2P/c1-5-9-13-17(14-10-6-2,15-11-7-3)16-12-8-4;13-15(14,11-7-3-1-4-8-11)12-9-5-2-6-10-12/h5-16H2,1-4H3;1-10H,(H,13,14)/q+1;/p-1
